US07186742B2
2-Chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid
A solution of 2-chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid methyl ester (4.5 g, 17.0 mmol) in methanol (20.0 mL) was treated with potassium hydroxide (4.52 g, 80.0 mmol). The mixture was stirred at room temperature for 16 h. The mixture was acidified to pH 4.0 with conc. HCl Methanol was removed from the mixture under vacuo. The residue was stirred at rt for 2 h and the solids collected by filtration, washed with water, 2:1 Hexanes/ether and dried to give the title compound (2.2 g)

reactant | 2-chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid methyl ester | 17.0 mmol, 4.5 g | COC(C1=C(C=CC(=C1)C1=NNC(=C1)C)Cl)=O | C12H11ClN2O2
reactant | potassium hydroxide | 80.0 mmol, 4.52 g | [OH-].[K+]
reactant | HCl Methanol | CO.Cl
solvent | methanol | 20.0 mL | CO | CH4O
product | 2-Chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid | 2.2 g | ClC1=C(C(=O)O)C=C(C=C1)C1=NNC(=C1)C | C11H9ClN2O2
